US04455422
3.0 Grams of 6-methylsulfonyloxy-7-(3-chloropropionyl)-3,4-dihydrocarbostyril and 0.5 g of palladium black were suspended in 200 ml of ethanol and the suspension was subjected to catalytic reduction under 3 atmospheric pressure of hydrogen gas at a room temperature for 5 hours under stirring condition. The reaction mixture was filtered and the mother liquor was concentrated under a reduced pressure to obtain a residue. The residue was recrystallized from ethanol to obtain a 1.2 g of 7-(3-chloropropionyl)-3,4-dihydrocarbostyril in colorless powdery-like crystals. Melting point: 159°-161° C.

reactant | 6-methylsulfonyloxy-7-(3-chloropropionyl)-3,4-dihydrocarbostyril | CS(=O)(=O)OC=1C=C2CCC(NC2=CC1C(CCCl)=O)=O | C13H14ClNO5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium black | 0.5 g | [Pd] | Pd
product | 7-(3-chloropropionyl)-3,4-dihydrocarbostyril | 1.2 g | ClCCC(=O)C1=CC=C2CCC(NC2=C1)=O | C12H12ClNO2
